US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(tetrahydrofuran-3-yl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (43 μL, 0.310 mmol) was added to a solution of the bis hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(tetrahydrofuran-3-yl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (42 mg, 0.103 mmol) and 4-nitrophenyl chloroformate (21 mg, 104 mmol) in tetrahydrofuran (3 mL) at 0° C. After 30 min, 2-oxo-1-piperidinium-4-yl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-4-ium dichloride (45 mg, 0.155 mmol), triethylamine (43 μL, 0.310 mmol) and dichloromethane (3 mL) were added and the mixture allowed to warm to ambient temperature. After 18 h, the reaction was concentrated. Purification by reverse phase HPLC (C-18, 90% water/acetonitrile→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (35 mg). MS 578.2702 (M+1).

reactant | Triethylamine | 0.310 mmol, 43 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(tetrahydrofuran-3-yl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.103 mmol, 42 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C2COCC2)N | C18H21F2N3O
reactant | 4-nitrophenyl chloroformate | 104 mmol, 21 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-oxo-1-piperidinium-4-yl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-4-ium dichloride | 0.155 mmol, 45 mg | [Cl-].[Cl-].O=C1N(C=2C(=[NH+]C=CC2)N1)C1CC[NH2+]CC1
reactant | triethylamine | 0.310 mmol, 43 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(tetrahydrofuran-3-yl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 35 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C2COCC2)NC(=O)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O | C30H33F2N7O3
